US09290451B2
e) 6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid and (S)-2-amino-3-cyclopropyl-propionamide (CAN 156077-93-9) as starting materials, MS (EI): m/e=372.1 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C11H10F3NO3
reactant | (S)-2-amino-3-cyclopropyl-propionamide | N[C@H](C(=O)N)CC1CC1 | C6H12N2O
product | 6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide | C(N)(=O)[C@H](CC1CC1)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CC1 | C17H20F3N3O3
